US09328124B2
5-(5-Fluoro-4-methoxy-6-methyl-pyrimidin-2-yl)-6a-pyrazin-2-yl-3,3a,4,6-tetrahydro-1H-pyrrolo[3,4-c]isoxazole
To a stirred solution of 6a-pyrazin-2-yl-1,3,3a,4,5,6-hexahydropyrrolo[3,4-c]isoxazole (1.4 g, 7.28 mmol) in 1,4-dioxane (30 mL) is added 2-chloro-5-fluoro-4-methoxy-6-methyl-pyrimidine (5.14 g, 29.13 mmol) and diisopropylethylamine (5.7 mL, 32.77 mmol). The resulting solution is heated at 110° C. for 4 hours. The reaction is cooled and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography using a 0-5% gradient of 0.14 M ammonia/methanol solution in dichloromethane to give the title compound (0.93 g, 38%). ES/MS (m/e): 333 (M+1).

reactant | 6a-pyrazin-2-yl-1,3,3a,4,5,6-hexahydropyrrolo[3,4-c]isoxazole | 7.28 mmol, 1.4 g | N1=C(C=NC=C1)C12NOCC1CNC2 | C9H12N4O
reactant | 2-chloro-5-fluoro-4-methoxy-6-methyl-pyrimidine | 29.13 mmol, 5.14 g | ClC1=NC(=C(C(=N1)OC)F)C | C6H6ClFN2O
reactant | diisopropylethylamine | 32.77 mmol, 5.7 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | 1,4-dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | 5-(5-Fluoro-4-methoxy-6-methyl-pyrimidin-2-yl)-6a-pyrazin-2-yl-3,3a,4,6-tetrahydro-1H-pyrrolo[3,4-c]isoxazole | 0.93 g, 38% | FC=1C(=NC(=NC1C)N1CC2(NOCC2C1)C1=NC=CN=C1)OC | C15H17FN6O2
